US07524813B2
At 0° C., ethyl chloroformate (1.93 ml, 20 mmol) was added to a solution of 3-(tert-butoxycarbonylaminomethyl)benzoic acid (5.0 g, 20 mmol) and triethylamine (3.33 ml, 24 mmol) in tetrahydrofuran (30 ml). The reaction mixture was stirred for 40 min at 0° C., and the formed precipitation was filtered off. The filtrate was cooled to 0° C. A 2.0 M solution of lithium borohydride in THF (25 ml, 50 mmol) was added. The reaction mixture was stirred for 16 h, while warming up to room temperature. Water was added carefully, until no gas was formed. A 10% solution of sodium hydrogensulphate (10 ml) was added. A saturated solution of sodium hydrogen carbonate (200 ml) was added. The mixture was extracted with ethyl acetate (200 and 100 ml). The combined organic layers were dried over magnesium sulphate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (80 g), using ethyl acetate/heptane 1:1 as eluent, to give 3.73 g of (3-hydroxymethylbenzyl)carbamic acid tert butylester.

reactant | ethyl chloroformate | 20 mmol, 1.93 ml | ClC(=O)OCC | C3H5ClO2
reactant | 3-(tert-butoxycarbonylaminomethyl)benzoic acid | 20 mmol, 5.0 g | C(C)(C)(C)OC(=O)NCC=1C=C(C(=O)O)C=CC1 | C13H17NO4
reactant | triethylamine | 24 mmol, 3.33 ml | C(C)N(CC)CC | C6H15N
reactant | lithium borohydride | [BH4-].[Li+]
reactant | sodium hydrogensulphate | 10 ml | S(=O)(=O)(O)[O-].[Na+]
reactant | sodium hydrogen carbonate | 200 ml | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | THF | 50 mmol, 25 ml | C1CCOC1 | C4H8O
solvent | Water | O | H2O
product | (3-hydroxymethylbenzyl)carbamic acid tert butylester | 3.73 g | C(C)(C)(C)OC(NCC1=CC(=CC=C1)CO)=O | C13H19NO3
